US08609680B2
7-Benzyl 2-tert-butyl 2,7-diazaspiro[3.5]nonane-2,7-dicarboxylate (33.4 g, 92.8 mmol) was dissolved in a solution of TFA (50 mL) and dichloromethane (200 mL) and the reaction was stirred at room temperature overnight. The reaction was concentrated in vacuo and the residue was neutralized with saturated aqueous Na2CO3 (100 mL). The aqueous solution was washed with ethyl acetate (2×100 mL). The combined organic layers were washed with brine (100 mL), dried (Na2SO4) and concentrated to give a yellow oil, which upon co-evaporation with dichloromethane provided benzyl 2,7-diazaspiro[3.5]nonane-7-carboxylate (SM-2a) as a white solid. (17.6 g, 73%). MS (ES+) 261.4 (M+H)+. 1H NMR (CDCl3) δ 1.67-1.89 (m, 4H), 2.86-3.18 (m, 2H), 3.40-3.64 (m, 7H), 5.12 (s, 2H), 7.30-7.39 (m, 5H).

reactant | 7-Benzyl 2-tert-butyl 2,7-diazaspiro[3.5]nonane-2,7-dicarboxylate | 92.8 mmol, 33.4 g | C1N(CC12CCN(CC2)C(=O)OCC2=CC=CC=C2)C(=O)OC(C)(C)C | C20H28N2O4
solvent | TFA | 50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | benzyl 2,7-diazaspiro[3.5]nonane-7-carboxylate | C1NCC12CCN(CC2)C(=O)OCC2=CC=CC=C2 | C15H20N2O2
